US08623897B2
Synthesis of 1,1′-dodecane-1,12-diyldicyclopropane carbonitrile
A solution of n-butyl lithium in hexane (1.8M, 1.06 L, 1.92 mol) was added drop wise to a solution of freshly distilled diisopropylamine (280.8 mL, 1.82 mol) in dry THF (1.5 L) at −60° C. under nitrogen atmosphere. The reaction mixture was slowly warmed to −20° C. and stirred for 30 min. The reaction mixture was re-cooled to −78° C., DMPU (29.3 g, 0.22 mol) was added drop wise and stirred for 15 min. Then cyclopropane carbonitrile (122.7 g, 1.82 mol) added drop wise over a period 1 h and stirred for 1 h. To the reaction mixture was added drop wise 1,12-dibromododecane (150.0 g, 0.45 mol) in dry THF (150 mL) and continued stirring at −78° C. for 2 h. The reaction mixture was slowly allowed to reach room temperature and continued stirring over a period of 16 h. The resulting reaction mixture was quenched with saturated NH4Cl (3.0 L) at 0° C. and the reaction mixture was extracted with ethyl acetate (1 L×3). The organic phases were combined, dried over anhydrous Na2SO4 and volatiles were evaporated under reduced pressure to yield a pale yellow liquid which was purified through silica gel (230-400) column (5% ethyl acetate in petroleum ether) to give product as off-white solid. The off-white solid washed with petroleum ether to obtain product as white solid 112 g (81.5%). mp: 45.0° C.-46.9° C.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 1.92 mol, 1.8M, 1.06 L | CCCCCC | C6H14
reactant | diisopropylamine | 1.82 mol, 280.8 mL | C(C)(C)NC(C)C | C6H15N
reactant | DMPU | 0.22 mol, 29.3 g | CN1CCCN(C1=O)C | C6H12N2O
reactant | cyclopropane carbonitrile | 1.82 mol, 122.7 g | C1(CC1)C#N | C4H5N
reactant | 1,12-dibromododecane | 0.45 mol, 150.0 g | BrCCCCCCCCCCCCBr | C12H24Br2
solvent | THF | 1.5 L | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1,1′-dodecane-1,12-diyldicyclopropane carbonitrile | 112 g, 81.5% | C(CCCCCCCCCCCC1(CC1)C#N)C1(CC1)C#N | C20H32N2
